US06649643B1
Production of 1-(2,3-Dihydro-1H-benzo[f]chromen-8-yl)-1-(1H-imidazol-4-yl)propanol
A solution of ethylmagnesium chloride in THF (3M; 3 mL) was added to a solution of (2,3-dihydro-1H-benzo[f]chromen-8-yl)(1H-imidazol-4-yl)ketone (0.523 g) in THF (20 ml) at 0° C. The mixture was stirred at room temperature for 2 h. Aqueous ammonium chloride solution was added to the mixture and extracted with ethyl acetate. The extract was dried and concentrated. The residue was chromatographed on silica gel (eluent; dichloromethane:methanol=20:1) to give the titled compound (0.512 g) as a colorless solid.

reactant | ethylmagnesium chloride | C(C)[Mg]Cl
reactant | (2,3-dihydro-1H-benzo[f]chromen-8-yl)(1H-imidazol-4-yl)ketone | 0.523 g | C1CCOC=2C=CC3=C(C12)C=CC(=C3)C(=O)C=3N=CNC3 | C17H14N2O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 3M, 3 mL | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-(2,3-Dihydro-1H-benzo[f]chromen-8-yl)-1-(1H-imidazol-4-yl)propanol | 0.512 g | C1CCOC=2C=CC3=C(C12)C=CC(=C3)C(CC)(O)C=3N=CNC3 | C19H20N2O2
